US07713993B2
Synthesis of tert-butyl N′-(5-chloro-2-p-tolylpentanoyl)hydrazinecarboxylate
IPEA (4.04 mL), HOBt (1.82 g) and EDC (2.59 g) were added to a solution of 5-chloro-2-p-tolylpentanoic acid (1.53 g) and tert-butyl carbazate (1.07 g) in DMF (25 mL), and the reaction solution was stirred at room temperature overnight. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.77 g of the title compound. The property values of the compound are as follows.

reactant | IPEA | 4.04 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBt | 1.82 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-chloro-2-p-tolylpentanoic acid | 1.53 g | ClCCCC(C(=O)O)C1=CC=C(C=C1)C | C12H15ClO2
reactant | tert-butyl carbazate | 1.07 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 2.59 g
product | tert-butyl N′-(5-chloro-2-p-tolylpentanoyl)hydrazinecarboxylate | 1.77 g | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)C | C17H25ClN2O3
